US08981084B2
(4-(2,3-Dihydro-1H-inden-2-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone
This compound was synthesized from 1-(2,3-dihydro-1H-inden-2-yl)piperazine dihydrochloride and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (100 mg, yield 39%). 1H NMR (400 MHz, MeOD) δ 8.27-8.24 (m, 1H), 8.18 (m, 1H), 7.72-7.71 (m, 2H), 7.20-7.16 (m, 2H), 7.14-7.11 (m, 2H), 3.87 (m, 2H), 3.55 (m, 2H), 3.26-3.20 (m, 1H), 3.17-3.12 (m, 2H), 2.93-2.87 (dd, J=15.1 Hz, 8.5 Hz, 2H), 2.73 (m, 2H), 2.60 (m, 2H). MS (ESI) m/z: Calculated for C23H21F3N4O2: 442.16. found: 443.2 (M+H)+

reactant | 1-(2,3-dihydro-1H-inden-2-yl)piperazine dihydrochloride | Cl.Cl.C1C(CC2=CC=CC=C12)N1CCNCC1
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | (4-(2,3-Dihydro-1H-inden-2-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | yield 39% | C1C(CC2=CC=CC=C12)N1CCN(CC1)C(=O)C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F | C23H21F3N4O2
